US04064106
Cyclohexylbromide was reacted with the ammonium salt of dicyclohexylphosphinodithioic acid to obtain cyclohexyldicyclohexylphosphinodithioate, m.p. 82°-85° C, which on testing lasted 1250 hours* longer than the control. The average number of hours required to reach failure was 3.5 times that of the control.

reactant | Cyclohexylbromide | C1(CCCCC1)Br | C6H11Br
reactant | dicyclohexylphosphinodithioic acid | C1(CCCCC1)P(=S)(S)C1CCCCC1 | C12H23PS2
product | cyclohexyldicyclohexylphosphinodithioate | C1(CCCCC1)SP(=S)(C1CCCCC1)C1CCCCC1 | C18H33PS2
